US04427590
A solution of 15,0 g 2-(methylthio)-5-phenyl-7-chloro-3H-1,4-benzodiazepine [cf. G. A. Archer et al., J. Org. Chem. 29, 231 (1964)] and 11,5 g 2-(p-methoxybenzyloxy)-acetic acid-hydrazide in 100 ml hexamethyl-phosphoric acid triamide is heated for 10 hours at 140°. The reaction mixture is worked up analogously to Example 1. The crude product is crystallised from ethyl acetate-petrol ether, whereby 1-[(p-methoxybenzyloxy)-methyl]-6-phenyl-8-chloro-4H-s-triazolo[4,3-a][1,4]benzodiazepine M.P. 157°-159° is obtained.

reactant | 2-(methylthio)-5-phenyl-7-chloro-3H-1,4-benzodiazepine | 15,0 g | CSC1=NC2=C(C(=NC1)C1=CC=CC=C1)C=C(C=C2)Cl | C16H13ClN2S
reactant | 2-(p-methoxybenzyloxy)-acetic acid-hydrazide | 11,5 g | COC1=CC=C(COCC(=O)NN)C=C1 | C10H14N2O3
solvent | hexamethyl-phosphoric acid triamide | 100 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | 1-[(p-methoxybenzyloxy)-methyl]-6-phenyl-8-chloro-4H-s-triazolo[4,3-a][1,4]benzodiazepine | COC1=CC=C(COCC2=NN=C3N2C2=C(C(=NC3)C3=CC=CC=C3)C=C(C=C2)Cl)C=C1 | C25H21ClN4O2
